### PR TITLE
[Merged by Bors] - chore(RingTheory/Length): new lemmas & slight golf

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -847,6 +847,10 @@ lemma finiteDimensionalOrder_iff_krullDim_ne_bot_and_top :
     · exact (fun h1 ↦ False.elim (h (LTSeries.nonempty_of_finiteDimensionalOrder α)))
     · exact (fun h1 ↦ False.elim (h1.1 (krullDim_eq_bot_iff.mpr (not_nonempty_iff.mp h))))
 
+lemma not_finiteDimensionalOrder_iff [Nonempty α] :
+    ¬ FiniteDimensionalOrder α ↔ InfiniteDimensionalOrder α := by
+  simp [finiteDimensionalOrder_iff_krullDim_ne_bot_and_top, krullDim_eq_top_iff]
```
Comment (erdOne) [inline Mathlib/Order/KrullDimension.lean:852]: I believe we have [this](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/RelSeries.html#not_infiniteDimensionalOrder_iff) already?

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -860,6 +864,8 @@ lemma KrullDimLE.mono {n m : ℕ} (e : n ≤ m) (α : Type*) [Preorder α] [Krul
     KrullDimLE m α :=
   ⟨KrullDimLE.krullDim_le (n := n).trans (Nat.cast_le.mpr e)⟩
 
+instance {α} [Preorder α] [Subsingleton α] : KrullDimLE 0 α := ⟨krullDim_nonpos_of_subsingleton⟩
```
Comment (erdOne) [inline Mathlib/Order/KrullDimension.lean:867]: Probably you can prove it for all `n` other than `0`. Do we care?

File: Mathlib/RingTheory/Length.lean [hunk 3]
```diff
@@ -69,25 +69,29 @@ lemma Module.length_compositionSeries (s : CompositionSeries (Submodule R M)) (h
...
+lemma Module.length_eq_top_iff_infiniteDimensionalOrder :
+    length R M = ⊤ ↔ InfiniteDimensionalOrder (Submodule R M) := by
+  rw [← WithBot.coe_inj, WithBot.coe_top, coe_length, Order.krullDim_eq_top_iff,
+      ← not_finiteDimensionalOrder_iff]
+
+lemma Module.length_ne_top_iff_finiteDimensionalOrder :
+    length R M ≠ ⊤ ↔ FiniteDimensionalOrder (Submodule R M) := by
+  rw [Ne, length_eq_top_iff_infiniteDimensionalOrder, ← not_finiteDimensionalOrder_iff, not_not]
+
+lemma Module.length_ne_top_iff_isFiniteLength : Module.length R M ≠ ⊤ ↔ IsFiniteLength R M := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Length.lean:84]: I prefer the shorter name since we will probably never use the other lemma elsewhere.

File: Mathlib/Order/KrullDimension.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean]: missed it🤦

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -860,6 +860,8 @@ lemma KrullDimLE.mono {n m : ℕ} (e : n ≤ m) (α : Type*) [Preorder α] [Krul
...
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean:863]:
```suggestion
instance (n α) [Preorder α] [Subsingleton α] : KrullDimLE n α :=
  ⟨krullDim_nonpos_of_subsingleton.trans n.zero_le⟩
```

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean]: generalized

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -860,6 +860,9 @@ lemma KrullDimLE.mono {n m : ℕ} (e : n ≤ m) (α : Type*) [Preorder α] [Krul
     KrullDimLE m α :=
   ⟨KrullDimLE.krullDim_le (n := n).trans (Nat.cast_le.mpr e)⟩
 
+instance (n α) [Preorder α] [Subsingleton α] : KrullDimLE n α :=
+  ⟨krullDim_nonpos_of_subsingleton.trans n.zero_le⟩
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean:864]:
```suggestion
  ⟨krullDim_nonpos_of_subsingleton.trans <| WithBot.coe_mono n.zero_le⟩
```

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean]: I think we should rather add an `instance [krullDimLE 0 α] : krullDimLE n α` using [Order.KrullDimLE.mono](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/KrullDimension.html#Order.KrullDimLE.mono)

File: Mathlib/Order/KrullDimension.lean (hunk 5 above)
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean:864]:
```suggestion
instance {α} [Preorder α] [Subsingleton α] : KrullDimLE 0 α := ⟨krullDim_nonpos_of_subsingleton⟩
```

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Order/KrullDimension.lean:863]: Sure.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
